US08686150B2
(b) 6-Chloro-3-methyl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid ethyl ester
6-Hydroxy-3-methyl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid ethyl ester (30.0 g), phosphorous oxychloride (12.6 mL) and 1,8-diazabicyclo[5.4.0]undec-7-ene (22.3 mL) were dissolved in toluene (550 mL) at 0° C. (ice bath), then stirred at 110° C. for 5 h, then cooled to r.t. The mixture was poured into a vigorously stirred solution of potassium acetate (39.9 g) in water (1 l). The aqueous solution was extracted with ethyl acetate, the organic layer was dried over magnesium sulfate and concentrated in vacuo. The crude product was used for the next step without further purification. 28.6 g (88%) of the title compound were obtained.

reactant | 6-Hydroxy-3-methyl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid ethyl ester | 30.0 g | C(C)OC(=O)C=1C2=C(N=C(C1)O)NN=C2C | C10H11N3O3
reactant | phosphorous oxychloride | 12.6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 22.3 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | potassium acetate | 39.9 g | C(C)(=O)[O-].[K+]
solvent | toluene | 550 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 l | O | H2O
product | 6-Chloro-3-methyl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid ethyl ester | 28.6 g, 88% | C(C)OC(=O)C=1C2=C(N=C(C1)Cl)NN=C2C | C10H10ClN3O2
